US06255333B1
1-(2,6-Dichloro-4-trifluoromethylphenyl)-3-methyl-4-trimethylsilylethynylpyrazole
To a stirred solution of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-methyl 4-trimethylsilylethynylpyrazole (1.3 g) in tetrahydrofuran (15 ml) at 65° C. was added dropwise t-butylnitrite (1.65 g) in tetrahydrofuran (5 ml) over a period of 15 minutes and heating continued for 3 hours. The reaction mixture was left at room temperature overnight then evaporated to give the crude product as a gum which was purified by column chromatography on silica gel eluted with dichioromethane:hexane (1:1). Combination and evaporation of appropriate fractions provided the title compound as a pale yellow solid, m.p. 76-78° C.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-methyl 4-trimethylsilylethynylpyrazole | 1.3 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C)C#C[Si](C)(C)C | C16H16Cl2F3N3Si
reactant | t-butylnitrite | 1.65 g | C(C)(C)(C)ON=O | C4H9NO2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-3-methyl-4-trimethylsilylethynylpyrazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)C#C[Si](C)(C)C)C | C16H15Cl2F3N2Si
